US08563550B2
2-Dimethylamino-imidazo[2,1-b][1,3,4]thiadiazole-5-carbaldehyde (116 mg, 0.591 mmol) was dissolved in dry acetonitrile (4 mL) and N-methylbenzylamine (0.768 mmol, 0.1 mL) and t-butylhydroperoxide (0.768 mmol, 5.5M, 0.14 mL) were added. The mixture was heated at 80° C. for 10 hours. The reaction mixture was diluted with water (4 mL) at room temperature and extracted with dichloromethane (3×8 mL). The combined organic layer was dried over sodium sulphate and concentrated in vacuo. The crude product was purified by flash chromatography (Isolute cartridge SiII, ethyl acetate:dichloromethane, 1:9 to 10:0) yielding 54 mg of 2-dimethylamino-imidazo[2,1-b][1,3,4]thiadiazole-5-carboxylic acid benzyl-methyl-amide as yellowish solid (29% yield).

reactant | 2-Dimethylamino-imidazo[2,1-b][1,3,4]thiadiazole-5-carbaldehyde | 0.591 mmol, 116 mg | CN(C1=NN2C(S1)=NC=C2C=O)C | C7H8N4OS
reactant | N-methylbenzylamine | 0.768 mmol, 0.1 mL | CNCC1=CC=CC=C1 | C8H11N
reactant | t-butylhydroperoxide | 0.768 mmol, 5.5M, 0.14 mL | C(C)(C)(C)OO | C4H10O2
solvent | acetonitrile | 4 mL | C(C)#N | C2H3N
solvent | water | 4 mL | O | H2O
product | 2-dimethylamino-imidazo[2,1-b][1,3,4]thiadiazole-5-carboxylic acid benzyl-methyl-amide | 54 mg, 29% yield | C(C1=CC=CC=C1)N(C(=O)C1=CN=C2SC(=NN21)N(C)C)C | C15H17N5OS
